US08729130B2
The dried solid of 4-acetamido-N-(2-aminophenyl)benzamide trifluoroacetate salt was suspended in a solution of 1:1 EtOH:H2O (320 mL). Saturated NaHCO3 solution (100 mL) was added slowly to adjust the pH to 8. The resultant slurry was stirred for 1.5 hours. The precipitates were filtered and washed with water (2×60 mL). After drying at 40° C. in vacuo for 16 h, 4-acetamido-N-(2-aminophenyl)benzamide (21.3 g, 92% yield, 97.0% HPLC purity) was isolated as crystalline Form B (white solid).

reactant | 4-acetamido-N-(2-aminophenyl)benzamide trifluoroacetate salt | FC(C(=O)O)(F)F.C(C)(=O)NC1=CC=C(C(=O)NC2=C(C=CC=C2)N)C=C1
reactant | EtOH | CCO | C2H6O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | H2O | 320 mL | O | H2O
product | 4-acetamido-N-(2-aminophenyl)benzamide | 21.3 g, 92% yield | C(C)(=O)NC1=CC=C(C(=O)NC2=C(C=CC=C2)N)C=C1 | C15H15N3O2
